US08604029B2
2-Isopropyl-4-nitro-benzonitrile (0.4 g, 2.10 mmol) was dissolved in dioxane (10 mL) and 80% sulfuric acid (10 mL) was added. The mixture was heated at reflux for 2 days then dioxane was evaporated under reduced pressure. The residue was basified with dilute sodium hydroxide solution and washed with ethyl acetate. The aqueous layer was then acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was separated, washed with water and brine, dried over sodium sulfate and concentrated to yield 2-isopropyl-4-nitro-benzoic acid (0.23 g, 52%) as a white solid.

reactant | 2-Isopropyl-4-nitro-benzonitrile | 2.10 mmol, 0.4 g | C(C)(C)C1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C10H10N2O2
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-isopropyl-4-nitro-benzoic acid | 0.23 g, 52% | C(C)(C)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C10H11NO4
